* Z:\Users\r-kobayashi\Documents\DoctoralResearch\DoctoralResearch\src\JPE_circuit_model\examples\simple_resonant_modified.asc
V1 out 0 AC 1 DC 0
R1 out 0 20n
L1 out 0 1m
C1 out 0 100n
.ac dec 100 1 100k
.meas AC Gain MAX mag(V(out))
.backanno
.end
