* Simple Resonant Circuit Test
V1 n001 0 AC 1
R1 n001 n002 20n
L1 n002 out 1m
C1 out 0 100n
.ac dec 100 1 100k
.meas AC Gain MAX mag(V(out))
.end